US08440665B2
The 4-bromothiazole-2-carbohydrazide (620 mg, 2.8 mmol) and toluene (9 mL) were added to a sealable vial, and N,N-dimethylformamide/N,N-dimethylacetamide complex (920 μL, 6.9 mmol) was added. The mixture was stirred for 5 minutes, then cyclopropyl amine (770 μL, 11 mmol), and acetic acid (160 μL, 2.8 mmol) were added, and the reaction was heated in a microwave reactor at 150° C. for 30 minutes. The solvent was removed under reduced pressure, and the residue purified by flash chromatography (1→7% methanol in methylene chloride) to afford 740 mg of 4-bromo-2-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiazole (contaminated with DMF•DMA, but used directly in next step).

reactant | 4-bromothiazole-2-carbohydrazide | 2.8 mmol, 620 mg | BrC=1N=C(SC1)C(=O)NN | C4H4BrN3OS
reactant | cyclopropyl amine | 11 mmol, 770 μL | C1(CC1)N | C3H7N
reactant | acetic acid | 2.8 mmol, 160 μL | C(C)(=O)O | C2H4O2
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)thiazole | 740 mg | BrC=1N=C(SC1)C1=NN=CN1C1CC1 | C8H7BrN4S
